US06329083B1
Synthesis of Compound Z3 (bis(di-p-tolylamino)benzo[a]perylene)
Then, two equivalents of di-p-tolylamine, potassium carbonate, and copper power were added to the thus obtained dibromobenzo[a]perylene. This mixture stood still for reaction at 200 degrees centigrade for thirty hours. After reactant solution was diluted with water, reactant was extracted by chloroform. Thereafter, the reactant was refined in a conventional manner to thereby obtain bis(di-p-tolylamino)benzo[a]perylene.

reactant | di-p-tolylamine | two equivalents | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C)C | C14H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dibromobenzo[a]perylene | BrC=1C=C2C=3C=CC=C4C=C5C(=C(C=6C=CC=C(C1Br)C26)C43)C=CC=C5 | C24H12Br2
solvent | water | O | H2O
catalyst | copper | [Cu] | Cu
product | bis(di-p-tolylamino)benzo[a]perylene | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C)C=1C=C2C=3C=CC=C4C=C5C(=C(C=6C=CC=C(C1N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C26)C43)C=CC=C5)C | C52H40N2
